US05596095
PREPARATION OF NEOPENTYL 5-BROMONAPHTHALENE-2-SULFONATE
Solid neopentyl alcohol (2.7 grams; 30.8 mmol) was added at room temperature to a solution of 5-bromonaphthalene-2-sulfonyl chloride (8.5 grams; 28 mmol) in 40 mL of pyridine. The reaction mixture was stirred at room temperature overnight (about 16 hours). The reaction mixture was co-distilled with toluene (about 100 mL) and the resulting oil poured into water to give a pale yellow solid which was filtered and dried. The solid was further purified by silica gel chromatography (EtOAc: Hexane 1:8). Yield: 8.9 gm (89%).

reactant | neopentyl alcohol | 30.8 mmol, 2.7 grams | C(C(C)(C)C)O | C5H12O
reactant | 5-bromonaphthalene-2-sulfonyl chloride | 28 mmol, 8.5 grams | BrC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)Cl | C10H6BrClO2S
reactant | toluene | about 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | NEOPENTYL 5-BROMONAPHTHALENE-2-SULFONATE | BrC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)OCC(C)(C)C | C15H17BrO3S
